### PR TITLE
[Merged by Bors] - feat: small missing group lemmas

### PR DESCRIPTION
**Pull request by PatrickMassot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 1]
```diff
@@ -1372,6 +1372,13 @@ theorem eq_bot_iff_forall : S = ⊥ ↔ ∀ x ∈ S, x = (1 : M) :=
 #align submonoid.eq_bot_iff_forall Submonoid.eq_bot_iff_forall
 #align add_submonoid.eq_bot_iff_forall AddSubmonoid.eq_bot_iff_forall
 
+@[to_additive]
+theorem eq_bot_of_subsingleton [Subsingleton S] : S = ⊥ := by
```
Comment (alreadydone) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:1376]: Does `Subsingleton.elim _ _` not work?

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 2]
```diff
@@ -342,6 +342,17 @@ theorem closure_singleton_one : closure ({1} : Set M) = ⊥ := by
...
+open Fintype in
+lemma eq_bot_iff_card {S : Submonoid M} [Fintype S] : S = ⊥ ↔ card S = 1 := by
+  suffices (∀ x ∈ S, x = 1) ↔ ∃ x ∈ S, ∀ a ∈ S, a = x by
+    simpa [eq_bot_iff_forall, card_eq_one_iff]
+  constructor
+  · intro h
+    use 1, S.one_mem
+  · rintro ⟨y, -, hy'⟩ x hx
+    calc x = y := hy' x hx
+    _      = 1 := (hy' 1 S.one_mem).symm
```
Comment (alreadydone) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:354]: Why is this so much longer than the Subgroup lemma? Is Submonoid also missing some lemmas used there?

File: Mathlib/GroupTheory/Submonoid/Operations.lean (hunk 1 above)
Comment (PatrickMassot) [reply Mathlib/GroupTheory/Submonoid/Operations.lean:1376]: I don't understand this suggestion. Do you mean replacing the whole proof with `Subsingleton.elim _ _`? Then the answer is clearly no.

File: Mathlib/GroupTheory/Submonoid/Membership.lean (hunk 2 above)
Comment (PatrickMassot) [reply Mathlib/GroupTheory/Submonoid/Membership.lean:354]: Yes. I thought it would be nice to have the Submonoid version of the Subgroup lemma I was interested in but I didn't have the patience to add every missing Submonoid lemma.

File: Mathlib/GroupTheory/Submonoid/Operations.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/Submonoid/Operations.lean:1376]: Oh the assumption isn't `Subsingleton M`. Sorry for the noise!

File: Mathlib/GroupTheory/Subgroup/Finite.lean [hunk 3]
```diff
@@ -173,6 +173,12 @@ theorem card_le_one_iff_eq_bot [Fintype H] : Fintype.card H ≤ 1 ↔ H = ⊥ :=
 #align subgroup.card_le_one_iff_eq_bot Subgroup.card_le_one_iff_eq_bot
 #align add_subgroup.card_nonpos_iff_eq_bot AddSubgroup.card_le_one_iff_eq_bot
 
+@[to_additive] lemma eq_bot_iff_card [Fintype H] : H = ⊥ ↔ Fintype.card H = 1 := by
+  constructor
+  · rintro rfl
+    exact card_bot
+  · apply eq_bot_of_card_eq
```
Comment (tb65536) [inline Mathlib/GroupTheory/Subgroup/Finite.lean:180]: A shorter proof would be to `rw` with `Subgroup.card_eq_one` and `Nat.card_eq_fintype_card`.

Comment (PatrickMassot) [reply Mathlib/GroupTheory/Subgroup/Finite.lean:180]: I like the fact that this lemma is in `Mathlib.GroupTheory.Subgroup.Finite` instead of `Mathlib.GroupTheory.Index`. And the above proof is already pretty short. But I compressed it as a compromise.

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 4]
```diff
@@ -2893,6 +2893,12 @@ theorem _root_.Subgroup.ker_inclusion {H K : Subgroup G} (h : H ≤ K) : (inclus
 #align subgroup.ker_inclusion Subgroup.ker_inclusion
 #align add_subgroup.ker_inclusion AddSubgroup.ker_inclusion
 
+@[to_additive]
+theorem ker_prod {M N : Type*} [MulOneClass M] [MulOneClass N] (f : G →* M) (g : G →* N) :
+    (f.prod g).ker = f.ker ⊓ g.ker := by
+  ext x
+  simp [MonoidHom.mem_ker]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:2900]: Golfed to nothing, since there's nothing interesting here:
```suggestion
    (f.prod g).ker = f.ker ⊓ g.ker :=
  SetLike.ext fun _ => Prod.mk_eq_one
```

File: Mathlib/GroupTheory/Submonoid/Membership.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/GroupTheory/Submonoid/Membership.lean:354]: Does copying the subgroup lemmas and replacing the word `monoid` with `group` work?

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 5]
```diff
@@ -342,6 +342,17 @@ theorem closure_singleton_one : closure ({1} : Set M) = ⊥ := by
   simp [eq_bot_iff_forall, mem_closure_singleton]
 #align submonoid.closure_singleton_one Submonoid.closure_singleton_one
 
+open Fintype in
+lemma eq_bot_iff_card {S : Submonoid M} [Fintype S] : S = ⊥ ↔ card S = 1 := by
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:346]: This should have a `to_additive`

Comment (PatrickMassot) [reply Mathlib/GroupTheory/Submonoid/Membership.lean:346]: Good catch, thanks.

File: Mathlib/GroupTheory/Subgroup/Finite.lean (hunk 3 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Subgroup/Finite.lean]: Sure, I guess it does fit in more naturally here.

File: Mathlib/GroupTheory/Submonoid/Membership.lean (hunk 2 above)
Comment (PatrickMassot) [reply Mathlib/GroupTheory/Submonoid/Membership.lean]: Ok, I see Eric isn't in a mood to allow me to be lazy. I added the lemmas.

**Comment by eric-wieser** [comment]
bors d+

Thanks!

**Comment by PatrickMassot** [comment]
bors merge
